US20010012891A1
4,5-Dibromo-N-[2-(1,3-dioxolan-2-yl)ethyl]pyrrole-2-carboxamide (11).
A solution of 2-(2-aminoethyl)-1,3-dioxolane (2.4 g, 20.6 mmol) and 4,5-dibromopyrrol-2-yl trichloromethyl ketone (7.6 g, 20.5 mmol) in 30 mL of acetonitrile was stirred at room temperature for 16 h. The reaction mixture was filtered and the precipitate 11 (6.8 g, 90%) was collected as a colorless solid: mp 155-157° C.; 1H NMR (CDCl3) d 1.99 (dt, 2H, J=6.0, 4.2), 3.61 (dt, 2H, J=6.0, 5.6), 3.92 (m, 2H), 4.05 (m, 2H), 5.00 (t, 1H, J=4.2), 6.51 (d, 1H, J=2.8), 6.66 (bs, 1H), 10.57 (bs, 1H); 13C NMR (CD3COCD3) d 34.3 (e), 35.5 (e), 65.4×2 (e), 99.4 (e), 103.4 (o), 105.4 (e), 113.0 (o), 129.1 (e), 160.0 (e); IR (nujol) 3358, 1646, 1569, 1412, 1372 cm−1; UV (CH3OH) 1max 275, 233, 214 (sh) nm; MS m/z (relative intensity) 371 (M++5, 50), 369 (M++3, 100), 367 (M++1, 50), 289 (13), 118 (25), 101 (50), 73 (30); Anal. Calcd for C8H10N2O2Br2: C, 32.63; H, 3.29; N, 7.61; Found: C, 32.77; H, 3.17; N, 7.51.

reactant | 2-(2-aminoethyl)-1,3-dioxolane | 20.6 mmol, 2.4 g | NCCC1OCCO1 | C5H11NO2
reactant | 4,5-dibromopyrrol-2-yl trichloromethyl ketone | 20.5 mmol, 7.6 g | ClC(Cl)(Cl)C(=O)C=1NC(=C(C1)Br)Br | C6H2Br2Cl3NO
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 4,5-Dibromo-N-[2-(1,3-dioxolan-2-yl)ethyl]pyrrole-2-carboxamide | BrC=1C=C(NC1Br)C(=O)NCCC1OCCO1 | C10H12Br2N2O3
